US08445499B2
Step 2: tert-butyl-1′-[4-(1,3-oxazol-2-yl)phenyl]-4,4′-bipiperidine-1-carboxylate
A −10° C. solution of MgBr2 (37 mg; 0.202 mmol) in THF (1 mL) was treated with nBuLi (0.333 mL; 1.82M; 0.606 mmol) The solution was stirred at −10° C. for 1 hr. A solution of oxazole (42 mg; 0.606 mmol) in THF (0.5 mL) was added and the solution was stirred at 25° C. for 2 hr. This solution was added to a refluxing solution of tert-butyl 1′-(4-iodophenyl)-4,4′-bipiperidine-1-carboxylate (285 mg; 0.606 mmol) and PdCl2(dppf) (495 mg; 0.606 mmol) in THF (4 mL). The mixture was refluxed 1 hr. The reaction was partitioned between CH2Cl2 and water. The organic was dried over magnesium sulfate, filtered and evaporated to a solid. The solid was chromatographed (PTLC; 40:1 CH2Cl2/MeOH) to afford the title compound.

reactant | MgBr2 | 0.202 mmol, 37 mg | [Mg+2].[Br-].[Br-]
reactant | nBuLi | 0.606 mmol, 1.82M, 0.333 mL | [Li]CCCC
reactant | oxazole | 0.606 mmol, 42 mg | O1C=NC=C1 | C3H3NO
reactant | tert-butyl 1′-(4-iodophenyl)-4,4′-bipiperidine-1-carboxylate | 0.606 mmol, 285 mg | IC1=CC=C(C=C1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H31IN2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.606 mmol, 495 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl-1′-[4-(1,3-oxazol-2-yl)phenyl]-4,4′-bipiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)C1=CC=C(C=C1)C=1OC=CN1 | C24H33N3O3
